US08048887B2
Methyl 2-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
To the solution of methyl 2-fluoro-3-iodo-4-methylbenzoate (1.1 g, 3.74 mmol, 1.0 eq) in DMSO was added [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (305 mg, 0.37 mmol, 0.1 eq) followed by bis(pinacolato)diboron (1.9 g, 7.48 mmol, 2.0 eq). To this solution potassium acetate (1.83 g, 18.7 mmol, 5.0 eq) was added and nitrogen gas was passed through for 10 minutes. The resultant solution was irradiated with microwave at 80° C. for 40 minutes. Reaction mixture was quenched with brine solution. The aqueous layer was extracted thrice with ethyl acetate. The combined organic layer was dried over sodium sulphate and the clear ethyl acetate layer was evaporated under vacuum. The crude was purified by silica gel (60-120) column chromatography using 1% ethyl acetate/hexane as eluent. Yield: 400 mg (36%). 1H NMR (400 MHz, CDCl3): δ 1.38 (s, 12H), 2.46 (s, 3H), 3.89 (s, 3H), 6.98-7.00 (d, 1H, J=7.84 Hz), 7.81-7.85 (t, 1H, J=7.82 Hz). LCMS: (ES+) m/z=295 (M+H).

reactant | methyl 2-fluoro-3-iodo-4-methylbenzoate | 3.74 mmol, 1.1 g, 1.0 eq | FC1=C(C(=O)OC)C=CC(=C1I)C | C9H8FIO2
reactant | bis(pinacolato)diboron | 7.48 mmol, 1.9 g, 2.0 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 18.7 mmol, 1.83 g, 5.0 eq | C(C)(=O)[O-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium | 0.37 mmol, 305 mg, 0.1 eq | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl 2-fluoro-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | FC1=C(C(=O)OC)C=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C15H20BFO4
